### PR TITLE
[Merged by Bors] - refactor(Algebra/CharP): strengthen expansion of `(x + y) ^ p ^ n`

### PR DESCRIPTION
**Pull request by YaelDillies**
Previously, we only knew that the remaining terms were divisible by `p`. Now we know they are divisible by `p * x * y`.

From ClassFieldTheory

Co-authored-by: Kenny Lau

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/Algebra/CharP/Lemmas.lean [hunk 1]
```diff
@@ -25,29 +25,36 @@ include hp
...
-      Icc_eq_cons_Ico (zero_le _), Finset.sum_cons, Ico_eq_cons_Ioo (pow_pos hp.pos _),
-      Finset.sum_cons, tsub_self, tsub_zero, pow_zero, Nat.choose_zero_right, Nat.choose_self,
-      Nat.cast_one, mul_one, one_mul, ← add_assoc]
-  · congr 1
-    simp_rw [Finset.mul_sum, Nat.cast_comm, mul_assoc _ _ (p : R), ← Nat.cast_mul]
-    refine Finset.sum_congr rfl fun i hi => ?_
-    rw [mem_Ioo] at hi
-    rw [Nat.div_mul_cancel (hp.dvd_choose_pow hi.1.ne' hi.2.ne)]
+        p * x * y *
+          ∑ k ∈ Ioo 0 (p ^ n), x ^ (k - 1) * y ^ (p ^ n - k - 1) * ↑((p ^ n).choose k / p) := calc
```
Comment (kbuzzard) [inline Mathlib/Algebra/CharP/Lemmas.lean]: You've changed the statement of this theorem and thus removed a theorem from mathlib. Furthermore it's probably a bit fiddly to recover the theorem you deleted from the new one, because the statement of the new one involves natural subtraction (and is thus arguably slightly less natural). Don't you think there's an argument for keeping the old one?

File: Mathlib/Algebra/CharP/Lemmas.lean [hunk 2]
```diff
@@ -25,29 +25,36 @@ include hp
...
+    rw [Nat.cast_comm, mul_assoc x _ y, Nat.cast_comm, ← mul_assoc x y,
+      (p.commute_cast _).symm.mul_mul_mul_comm (x * y), (h.pow_left _).symm.mul_mul_mul_comm]
+    norm_cast
+    rw [Nat.mul_div_cancel' (hp.dvd_choose_pow _ _)] <;> omega
 
 protected theorem add_pow_prime_eq (h : Commute x y) :
     (x + y) ^ p =
-      x ^ p + y ^ p + p * ∑ k ∈ Finset.Ioo 0 p, x ^ k * y ^ (p - k) * ↑(p.choose k / p) := by
+      x ^ p + y ^ p + p * x * y *
+        ∑ k ∈ Finset.Ioo 0 p, x ^ (k - 1) * y ^ (p - k - 1) * ↑(p.choose k / p) := by
```
Comment (kbuzzard) [inline Mathlib/Algebra/CharP/Lemmas.lean]: Ditto here. One way of summarising what you've done is that modulo a trivial lemma about commuting multiplication and a sum, you're replacing x^k with x^{1+k-1} in a situation where one can check that all the summands have k>0 (and perhaps even more annoyingly replacing y^{p-k} with y^{1+(p-k-1)}). But x^k looks more natural to me.

I am not objecting to the new statements, I think they're useful, and clearly it's unquestionable that `exists_add_pow_prime_pow_eq` has got better because the new claim is strictly stronger. It's just not clear to me that deleting what might be just the right lemma for someone and replacing it by something which might not be more convenient for everyone is what we should be doing here.

Can you just put the old ones back? e.g. deduce them from the new ones?

Comment (YaelDillies) [reply Mathlib/Algebra/CharP/Lemmas.lean]: > One way of summarising what you've done is that modulo a trivial lemma about commuting multiplication and a sum, you're replacing x^k with x^{1+k-1} in a situation where one can check that all the summands have k>0 (and perhaps even more annoyingly replacing y^{p-k} with y^{1+(p-k-1)}). But x^k looks more natural to me.

I would usually agree, but this statement is clearly meant to provide the witness of `exists_add_pow_prime_pow_eq` explicitly: You are complaining that I am introducing truncated subtraction in the statement, but there is already truncated division in `p.choose k / p`!

File: Mathlib/Algebra/CharP/Lemmas.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Algebra/CharP/Lemmas.lean]: I agree with Kevin here: it is very fiddly to recover the old statement from the new. Moreover I can believe somebody might want the old statement. I propose we therefore add the following derivation of the old from the new:
```lean
protected theorem add_pow_prime_pow_eq' (h : Commute x y) (n : ℕ) :
    (x + y) ^ p ^ n =
      x ^ p ^ n + y ^ p ^ n +
        p * ∑ k ∈ Ioo 0 (p ^ n), x ^ k * y ^ (p ^ n - k) * ↑((p ^ n).choose k / p) := by
  suffices ∀ k ∈ Ioo 0 (p ^ n), x * y * x ^ (k - 1) * y ^ (p ^ n - k - 1) =
      x ^ k * y ^ (p ^ n - k) by
    simp_rw [h.add_pow_prime_pow_eq hp, mul_assoc, mul_sum _ _ y, mul_sum _ _ x, ← mul_assoc]
    congr 2
    refine sum_congr rfl fun k hk ↦ ?_
    rw [this _ hk]
  intro k hk
  obtain ⟨hk₁, hk₂⟩ : 0 < k ∧ k < p ^ n := by simpa using hk
  calc x * y * x ^ (k - 1) * y ^ (p ^ n - k - 1)
    _ = x * (y * x ^ (k - 1)) * y ^ (p ^ n - k - 1) := by simp only [mul_assoc]
    _ = x * (x ^ (k - 1) * y) * y ^ (p ^ n - k - 1) := by rw [h.pow_left]
    _ = (x * x ^ (k - 1)) * (y * y ^ (p ^ n - k - 1)) := by simp only [mul_assoc]
    _ = x ^ k * y ^ (p ^ n - k) := by rw [← pow_succ', ← pow_succ']; congr <;> omega
```

Comment (ocfnash) [reply Mathlib/Algebra/CharP/Lemmas.lean]: I might add that the fact that this is non-trivial might be worth raising with some tactic-writers: clearly something is wrong if we have to work so hard for such trivialities.

File: Mathlib/Algebra/CharP/Lemmas.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Algebra/CharP/Lemmas.lean]: I do not believe the point about truncated division is relevant.

However I am convinced by the argument about the job of this lemma being to provide a witness for `exists_add_pow_prime_pow_eq`. Furthermore I think that if we add `add_pow_prime_pow_eq'` above then the old statement is very, very easy to recover in the event that someone ever wants it.
